data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]12[CH:22]=[C:23]([C:24](=[O+:25]C)C=C1CCN3C24CCC(=O)CC4(CC3=O)C(=O)OC)OC.OP(=O)(O)OP(=O)(O)[O-:10]>>[H:20][O:10]P(=O)(O)OP(=O)(O)O.C[O:25][C:24]1=[C:23]([CH:22]=[C:21]2C(=C1)CCN3C24CCC(=O)CC4(CC3=O)C(=O)OC)OC 10=20;24,25=25;20,21=21,22;22,23=23,24
[H:20][CH:21]1C=C([N+:23](=[C:22]1C)C2=NC(=CC=C2)Br)C.CC(=O)[O-:10].O>>CC1=C[CH:21]=[C:22]([N:23]1C2=NC(=CC=C2)Br)C.[H:20][O:10]C(=O)C.O 10=20;22,23=23;20,21=21,22
[CH2:20]=[NH2+:21].[Br-:10]>>[CH2:20]([NH2:21])[Br:10] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1Br)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[C:22](C=CC=C1)Br 10=20;20,21=21,22
[Li+:20].[Li]C1(C(CCC1(C)[O-:10])OC)CCCC.CCCC>>[Li]C1(C(CCC1(C)[O:10][Li:20])OC)CCCC.CCCC 10=20,
[H:20][CH:21]1[C:22](=[O:23])CCC1(C)O.CC[O-:10]>>[H:20][O:10]CC.CC1(CC[C:22](=[CH:21]1)[O-:23])O 10=20;22,23=23;20,21=21,22
[H:20][NH+:21]1C(=C(C2C1(C=CC(=C2)O)O)C(=O)OCC)COC.CC(=O)[O-:10].CCOC(=O)C>>[H:20][O:10]C(=O)C.CCOC(=O)C1=C([NH:21]C2(C1C=C(C=C2)O)O)COC.CCOC(=O)C 10=20;20,21=21
CC1CCCC([C+:20]1C)(C)C.[Br-:10]>>CC1CCCC([C:20]1(C)[Br:10])(C)C 10=20,
[H:20][O+:21](CCCC)C(C1=CC=C(C=C1)[N+](=O)[O-])(O)O.CCCC[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH+:10]CCCC.CCCC[O:21]C(C1=CC=C(C=C1)[N+](=O)[O-])(O)O.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[B-]([O:10]CC[N+:21](=[C:20](C)C)C)(F)(F)F>>[B-]([O+:10]1CC[N:21]([C:20]1(C)C)C)(F)(F)F 10=20;20,21=21
C[O-:10].C[Si:20](C)(C)Cl>>C[O:10][Si-:20](C)(C)(C)Cl 10=20,
[H:20][OH:21].C=CCCC(CCCCC(=O)[O-])C(=O)[O-:10]>>[H:20][O:10]C(=O)C(CCCCC(=O)[O-])CCC=C.[OH-:21] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(=O)C)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=O)C1=C[C:21](=[CH:22]O1)[N+](=O)[O-] 10=20;20,21=21,22
CC1(C2CC1[C:21](=[CH2:20])[C:22](=[O:23])C2)C.C1=CC=[N+](C=C1)[CH:10]=[C:11](C2=C(C=CC=C2)F)[O-:12].CC(=O)O.[NH4+].[I-]>>CC1(C2CC1[C:21](=[C:22](C2)[O-:23])[CH2:20][CH:10]([C:11](=[O:12])C3=C(C=CC=C3)F)[N+]4=CC=CC=C4)C.CC(=O)O.[NH4+].[I-] 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][OH2+:21].C1=CC(=CC=C1CC#[N:10])O.CCOCC.C1=C(C=C(C=C1O)O)O.OS(=O)(=O)[O-]>>[H:20][N+:10]#CCC1=CC=C(C=C1)O.[OH2:21].CCOCC.C1=C(C=C(C=C1O)O)O.OS(=O)(=O)[O-] 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][CH2:20]CC2C[CH:11]=[CH:10]C2C3CCCCC3>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1CCC(CC1)C2C3C[CH2:20][CH:10]2[CH+:11]C3 10,11=10,20;20,21=21
[H:20][C:21]1(C=CC=C([CH+:22]1)C(Cl)(Cl)Cl)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)C(Cl)(Cl)Cl)S(=O)(=O)O 10=20;20,21=21,22
[H:20][CH2:21][C:22](=[O:23])N(C)C.[OH-:10]>>[H:20][OH:10].CN(C)[C:22](=[CH2:21])[O-:23] 10=20;22,23=23;20,21=21,22
[B-]([O:10]CC)(F)(F)F.CC1=CCC(OC1C[C+]2C(CC(C2(C)CO[Si](C)(C)C(C)(C)C)C(C)C)[Si:20](C)(C)C)C(C)OCOC.CCOCC>>[B-]([O+:10](CC)[Si-:20](C)(C)(C)C1CC(C([C+]1CC2C(=CCC(O2)C(C)OCOC)C)(C)CO[Si](C)(C)C(C)(C)C)C(C)C)(F)(F)F.CCOCC 10=20,
C1C[C:20]2(CCC1C=O)[OH+:21]CC[O:10]2.CC(=O)[O-].CO.O>>C1C[C:20](=[O+:10]CC[OH:21])CCC1C=O.CC(=O)[O-].CO.O 10=20;20,21=21
[B-]([O:10][C:20](C)(C)[OH2+:21])(F)(F)F>>[B-]([O+:10]=[C:20](C)C)(F)(F)F.[OH2:21] 10=20;20,21=21
[H:20][NH+:21](C)CCCC(C1=CN=CC=C1)Br.C(=O)([O-:10])[O-]>>[H:20][O:10]C(=O)[O-].C[NH:21]CCCC(C1=CN=CC=C1)Br 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CN1)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CN[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
[H:10][CH2:11][CH:12](C)[Mg-:13]([O+:21]=[C:20](CC(C)C)C(C)C)Cl>>[H:10][C:20](CC(C)C)(C(C)C)[O:21][Mg:13]Cl.C[CH:12]=[CH2:11] 10,11=10,20;20,21=21;12,13=11,12
CC1CC(C2[C+](C1(CCC2(C)C=C)C)C[Si:20](C)(C)C)O[Zn-](Cl)Cl.[Cl-:10]>>CC1CC(C2[C+](C1(CCC2(C)C=C)C)C[Si-:20](C)(C)(C)[Cl:10])O[Zn-](Cl)Cl 10=20,
C[C-:10](C(=O)C)[C:20](=[O:21])OC>>C[C:10](=[C:20]([O-:21])OC)C(=O)C 10=20;20,21=21
C[Si](C)(C)[O:10]CC[O+:21]=[CH2:20]>>C[Si](C)(C)[O+:10]1CC[O:21][CH2:20]1 10=20;20,21=21
[CH3:20][O:21]S(=O)(=O)C.C[SH:10]>>CS(=O)(=O)[O-:21].C[SH+:10][CH3:20] 10=20;20,21=21
CC[O-:10].C1=C[C:21](=[C:20](C=C1)F)[N+](=O)[O-]>>CC[O:10][C:20]1(C=CC=C[C-:21]1[N+](=O)[O-])F 10=20;20,21=21
CC[C:20](=[O:21])[C:10](C)(C)[C:11](CC)(C(C)C)[O-:12]>>CC[C:11](=[O:12])C(C)C.CC[C:20](=[C:10](C)C)[O-:21] 10,11=10,20;20,21=21;12=11
CN(C)[PH+:20](OC)OC.C[OH:10]>>CN(C)[PH:20]([OH+:10]C)(OC)OC 10=20,
C[CH:20]([O:10]C)[Br:21]>>C[CH:20]=[O+:10]C.[Br-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])C(CC2(C1(CCC2C)O)CCC#C)[Si](C)(C)C.C[O-:10].O[K]>>[H:20][O:10]C.CC1CCC2(C1(CC([C:22](=[CH:21]2)[O-:23])[Si](C)(C)C)CCC#C)O.O[K] 10=20;22,23=23;20,21=21,22
COC1=CC=C(C=C1)CC[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>COC1=CC=C(C=C1)CC[O:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)Br.C(Br)(Br)Br 10=20,
CC1=C(C=C2C(=C1)OC(C2(C)[O-:10])C(=O)O[C:20](=[O:21])C)OC.CC(=O)O.[Na+]>>CC1=C(C=C2C(=C1)OC3C2([O:10][C:20](OC3=O)(C)[O-:21])C)OC.CC(=O)O.[Na+] 10=20;20,21=21
CC(=O)OCC1C(C(C([CH:20]=[O+:21]1)OC(=O)C)OC(=O)C)OC(=O)C.COC1=CC=C(C=C1)[O:10][K].CCO.[Cl-]>>CC(=O)OCC1C(C(C([CH:20]([O:21]1)[O+:10](C2=CC=C(C=C2)OC)[K])OC(=O)C)OC(=O)C)OC(=O)C.CCO.[Cl-] 10=20;20,21=21
